US08445538B2
Step A. tert-butyl 4-{(1R)-1-[(4-fluoro-1-naphthyl)(hydroxy)(4-methoxyphenyl)methyl]butyl}benzoate
To a solution of 1-bromo-4-fluoronaphthalene (229 mg, 1.02 mmol) in THF (6 mL) at −78° C. was added BuLi (2.5 M in hexanes, 0.434 mL, 1.086 mmol), then the solution was stirred for one hour. A solution of t-butyl (R)-4-[2-(4-methoxyphenyl)-1-propylethan-2-one-1-yl]benzoate (prepared using the procedure for INTERMEDIATE 4, 250 mg, 0.678 mmol) in THF (2 mL) was added and the solution was stirred for an additional hour. The solution was quenched with saturated NH4Cl (aq), then diluted with EtOAc (50 mL). The organic layer was separated, washed with water then brine, dried over MgSO4, filtered, then concentrated. The residue was purified by silica gel chromatography eluting with 0-20% EtOAc/hexanes to afford the title compound. LC1 1.30 min. [M+H−H2O]+ 497.

reactant | 1-bromo-4-fluoronaphthalene | 1.02 mmol, 229 mg | BrC1=CC=C(C2=CC=CC=C12)F | C10H6BrF
reactant | BuLi | 1.086 mmol, 2.5 M, 0.434 mL | [Li]CCCC
reactant | t-butyl (R)-4-[2-(4-methoxyphenyl)-1-propylethan-2-one-1-yl]benzoate | COC1=CC=C(C=C1)C([C@H](CCC)C1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C23H28O4
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-{(1R)-1-[(4-fluoro-1-naphthyl)(hydroxy)(4-methoxyphenyl)methyl]butyl}benzoate | FC1=CC=C(C2=CC=CC=C12)C([C@H](CCC)C1=CC=C(C(=O)OC(C)(C)C)C=C1)(C1=CC=C(C=C1)OC)O | C33H35FO4
